US07820654B2
Step (i). Synthesis of 1-[4-(4-methylsulfanyl-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol
The title compound was prepared by treating 1-(4-chloro-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol (0.3 g, 1.04 mmol) with 4-methylsulfanyl-phenylamine (0.14 g, 1.04 mmol) according to the procedure described above.

reactant | 1-(4-chloro-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol | 1.04 mmol, 0.3 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N1CCC(CC1)O | C15H16ClN3O
reactant | 4-methylsulfanyl-phenylamine | 1.04 mmol, 0.14 g | CSC1=CC=C(C=C1)N | C7H9NS
product | 1-[4-(4-methylsulfanyl-phenylamino)-6-phenyl-pyrimidin-2-yl]-piperidin-4-ol | CSC1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=CC=CC=C1)N1CCC(CC1)O | C22H24N4OS
